US04278682
1-(2'-Ethoxycarbonyl-ethyl)-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine hydrochloride
0.35 g (1 mmole) of 1-(2'-methoxycarbonyl-ethyl)-1,2,3,4,6,7.12,12b-octahydro-indolo[2,3-a]quinolizine hydrochloride are partitioned between 10 ml of dichloromethane and 3 ml of 5% aqueous sodium carbonate solution, and the aqueous phase is extracted with 2×3 ml of dichloromethane. The organic phases are combined, dried over magnesium sulfate, filtered, and the filtrate is evaporated. The oily residue is dissolved in 15 ml of absolute ethanol, 50 mg of sodium ethoxide are added to the solution, and the mixture is boiled for 2 hours. Thereafter the mixture is cooled, the sodium ethoxide is decomposed with glacial acetic acid, and the solution is evaporated to dryness in vacuo. The residue is admixed with 10 ml of 5% aqueous sodium carbonate solution, and the mixture is extracted with 20 ml of dichloromethane. The organic phase is filtered, the filtrate is dried over magnesium sulfate, filtered again, and then evaporated in vacuo to dryness. The obtained 0.30 g of oily residue are dissolved in 2 ml of ethanol, the solution is acidified to pH 6 with ethanolic hydrochloric acid, the separated salt is filtered off, washed with ethanol and ether, and dried.

reactant | 1-(2'-methoxycarbonyl-ethyl)-1,2,3,4,6,7.12,12b-octahydro-indolo[2,3-a]quinolizine hydrochloride | 1 mmole, 0.35 g | Cl.COC(=O)CCC1CCCN2CCC3=C(C12)NC1=CC=CC=C13
reactant | sodium carbonate | 3 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(2'-Ethoxycarbonyl-ethyl)-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine hydrochloride | Cl.C(C)OC(=O)CCC1CCCN2CCC3=C(C12)NC1=CC=CC=C13 | InChI=1S/C20H26N2O2.ClH/c1-2-24-18(23)10-9-14-6-5-12-22-13-11-16-15-7-3-4-8-17(15)21-19(16)20(14)22;/h3-4,7-8,14,20-21H,2,5-6,9-13H2,1H3;1H
